US07732477B2
Methyl6-fluoro-1-benzothiophene-2-carboxylate
Using 2.00 g (14.07 mmol) of 2,4-difluorobenzaldehyde, 0.84 g (21.11 mmol) of sodium hydride (60% pure) and 1.64 g (15.48 mmol) of methyl mercaptoacetate, 1.99 g of the desired product are obtained. The product is obtained in a purity which permits further reaction and is reacted without further purification.

reactant | 2,4-difluorobenzaldehyde | 14.07 mmol, 2.00 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | sodium hydride | 21.11 mmol, 0.84 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 15.48 mmol, 1.64 g | SCC(=O)OC | C3H6O2S
product | Methyl6-fluoro-1-benzothiophene-2-carboxylate | 1.99 g | COC(=O)C=1SC2=C(C1)C=CC(=C2)F | C10H7FO2S
